US09359338B2
Step 1: Synthesis of 4-[3-nitro-5-(trifluoromethyl)phenyl]morpholine
Dissolve 1-bromo-3-nitro-5-(trifluoromethyl)benzene (270 mg, 1 mmol) and DIEA (258 mg, 2 mmol) in DMF (5 mL), add morpholine (174 mg, 2 mmol). Stir the reaction at 120° C. overnight. Cool to room temperature; remove the volatiles under reduced pressure to give a crude residue. Purification of the residue by chromatography (silica gel, EtOAc:PE=1:5) affords the product (138 mg, 50%).

reactant | 1-bromo-3-nitro-5-(trifluoromethyl)benzene | 1 mmol, 270 mg | BrC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C7H3BrF3NO2
reactant | DIEA | 2 mmol, 258 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | morpholine | 2 mmol, 174 mg | N1CCOCC1 | C4H9NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-[3-nitro-5-(trifluoromethyl)phenyl]morpholine | 138 mg, 50% | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)N1CCOCC1 | C11H11F3N2O3
